US07217740B2
2-({4-[(E)-2-(4-fluorophenyl)vinyl]phenyl}sulfinyl)benzenesulfonamide
2-Fluorobenzenesulfonamide was reacted with 4-bromothiophenol according to the method of Example 46 Step 1 using 1-methyl-2-pyrrolidinone as solvent. The resulting thioether was oxidised to the corresponding sulfoxide by the procedure of Example 16 Step 1. This was coupled with 4-fluorostyrene by the procedure of Example 107 to give the title compound. δH (500 MHz, d6 DMSO): 8.10 (1H, d, J=7.8 Hz), 7.91 (1H, d, J=7.7 Hz), 7.87 (2H, s), 7.81 (1H, t, J=7.4 Hz), 7.71–7.63 (7 H, m), 7.31 (1H, d, J=16.5 Hz), 7.22–7.18 (3H, m).

reactant | 2-Fluorobenzenesulfonamide | FC1=C(C=CC=C1)S(=O)(=O)N | C6H6FNO2S
reactant | 4-bromothiophenol | BrC1=CC=C(C=C1)S | C6H5BrS
reactant | 4-fluorostyrene | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 2-({4-[(E)-2-(4-fluorophenyl)vinyl]phenyl}sulfinyl)benzenesulfonamide | FC1=CC=C(C=C1)/C=C/C1=CC=C(C=C1)S(=O)C1=C(C=CC=C1)S(=O)(=O)N | C20H16FNO3S2
